US09382228B2
A solution of trans-4-methylcyclohexane carboxylic acid (1.00 g, 7.03 mmol) in EtOAc (15 mL) was treated with CDI (1.425 g, 8.79 mmol) and stirred at RT for 20 minutes. Ammonium hydroxide (˜14M, 5.00 mL, ˜70.0 mmol) was added, the mixture stirred for 20 minutes, then concentrated to dryness. The material was treated with satd. NaHCO3 and the solids collected via filtration and dried to afford trans-4-methylcyclohexanecarboxamide (842 mg, 85%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.13 (s, 1H), 6.61 (s, 1H), 1.94 (m, 1H), 1.70 (m, 4H), 1.25 (m, 3H), 0.84 (m, 5H); MS (ESI) m/z: 142.1 (M+H+).

reactant | trans-4-methylcyclohexane carboxylic acid | 7.03 mmol, 1.00 g | C[C@@H]1CC[C@H](CC1)C(=O)O | C8H14O2
reactant | CDI | 8.79 mmol, 1.425 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Ammonium hydroxide | ˜70.0 mmol, ˜14M, 5.00 mL | [OH-].[NH4+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | trans-4-methylcyclohexanecarboxamide | 842 mg, 85% | C[C@@H]1CC[C@H](CC1)C(=O)N | C8H15NO
